US09023840B2
Step 4: 5-bromo-N-[1-(trifluoromethyl)cyclopropyl]pyridine-2-carboxamide
A mixture of 5-bromopyridine-2-carboxylic acid (150 mg, 0.74 mmol), 1-(trifluoromethyl)cyclopropanamine (93 mg, 0.74 mmol) (Oakwood, Cat. #: 038175), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (345 mg, 0.780 mmol) and triethylamine (310 μL, 2.2 mmol) in methylene chloride (1 mL) was stirred at room temperature for 3 h. The mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in dichloromethylene (0-5%) to afford the desired product (124 mg). LCMS (M+H)+: m/z=309.0.

reactant | 5-bromopyridine-2-carboxylic acid | 0.74 mmol, 150 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 1-(trifluoromethyl)cyclopropanamine | 0.74 mmol, 93 mg | FC(C1(CC1)N)(F)F | C4H6F3N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.780 mmol, 345 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.2 mmol, 310 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-[1-(trifluoromethyl)cyclopropyl]pyridine-2-carboxamide | 124 mg | BrC=1C=CC(=NC1)C(=O)NC1(CC1)C(F)(F)F | C10H8BrF3N2O
